US05618792
To a solution containing 3-[(benzyloxycarbonyl)amino]-2-hydroxy-4-methylpentanenitrile (32.0 g, 0.12 mol) and pyridine (59 mL) was added acetic anhydride (73.6 g, 68 mL, 0.72 mol) dropwise at RT. After 3 h the reaction was diluted with ethyl acetate and washed with water. The organic layer was separated, dried (anhydrous magnesium sulfate) and evaporated. The residue was purified by column chromatography (silica get, 1:1 hexane:ethyl acetate) to give 33.08 g (94.0%) of 3-(S)-[(benzyloxycarbonyl)amino]-2-acetoxy-4-methylpentanenitrile as a viscous yellow oil; TLC Rf =0.70 (silica gel, 1:1 hexane:ethyl acetate).

reactant | 3-[(benzyloxycarbonyl)amino]-2-hydroxy-4-methylpentanenitrile | 0.12 mol, 32.0 g | C(C1=CC=CC=C1)OC(=O)NC(C(C#N)O)C(C)C | C14H18N2O3
reactant | pyridine | 59 mL | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 0.72 mol, 68 mL, 73.6 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(S)-[(benzyloxycarbonyl)amino]-2-acetoxy-4-methylpentanenitrile | 33.08 g, 94.0% | C(C1=CC=CC=C1)OC(=O)N[C@H](C(C#N)OC(C)=O)C(C)C | C16H20N2O4
